US04767760
A mixture of 2.28 parts of 2,6-dichloro-α-(4-chlorophenyl)-4-(4,5-dihydro-3,5-dioxo-1,2,4-triazin-2(3H)-yl)benzeneacetylchloride and 18 parts of piperidine was stirred for 17 hours at room temperature (exothermic reaction). After the addition of water, the solution was acidified with hydrochloric acid. The product was extracted with a mixture of trichloromethane and methanol (95:5 by volume). The extract was dried, filtered and evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane, methanol and acetic acid (95:4:1 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was washed with 2,2'-oxybispropane and dried, yielding 1 part (44.0%) of 1-[2-(4-chlorophenyl)-2-[2,6-dichloro-4-(4,5-dihydro-3,5-dioxo-1,2,4-triazin-2(3H)-yl)phenyl]acetyl]piperidine; mp. 216.9° C. (intermediate 34).

reactant | 2,6-dichloro-α-(4-chlorophenyl)-4-(4,5-dihydro-3,5-dioxo-1,2,4-triazin-2(3H)-yl)benzeneacetylchloride | ClC1=C(C(=CC(=C1)N1N=CC(NC1=O)=O)Cl)C(C(=O)Cl)C1=CC=C(C=C1)Cl | C17H9Cl4N3O3
reactant | piperidine | N1CCCCC1 | C5H11N
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 1-[2-(4-chlorophenyl)-2-[2,6-dichloro-4-(4,5-dihydro-3,5-dioxo-1,2,4-triazin-2(3H)-yl)phenyl]acetyl]piperidine | 44.0% | ClC1=CC=C(C=C1)C(C(=O)N1CCCCC1)C1=C(C=C(C=C1Cl)N1N=CC(NC1=O)=O)Cl | C22H19Cl3N4O3
